US07288564B2
5-Methoxy-2-methyl-3-indole acetic acid (5 g, obtainable from Acros), carbonyidiimidazole (4.44 g) and tetrahydrofuran (120 ml) were stirred at room temperature for 30 min after which methyl 4-bromoanthranilate (5.24 g) and pyridinium tosylate (13.69 g) were added and the mixture refluxed for 14 h. After diluting with dichloromethane (200 ml), the residue was washed with 2M hydrochloric acid (200 ml), 2M sodium hydroxide (200 ml), water (200 ml) and brine (200 ml) and dried (MgSO4). After solidifying by treatment with cyclohexane and ethyl acetate, the solid was triturated with ether to afford methyl 4-bromo-2-{[(5-methoxy-2-methyl-1H-indol-3-yl)acetyl]amino}benzoate (6.54 g), MH+ 433, 435; MH− 431, 433; TR 3.67 min.

reactant | 5-Methoxy-2-methyl-3-indole acetic acid | 5 g | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C12H13NO3
reactant | carbonyidiimidazole | 4.44 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methyl 4-bromoanthranilate | 5.24 g | BrC=1C=C(C(C(=O)OC)=CC1)N | C8H8BrNO2
reactant | pyridinium tosylate | 13.69 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | methyl 4-bromo-2-{[(5-methoxy-2-methyl-1H-indol-3-yl)acetyl]amino}benzoate | 6.54 g | BrC1=CC(=C(C(=O)OC)C=C1)NC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C20H19BrN2O4
